US05591752
2-(7-Chloroquinolin-2-yl)methoxy-11-[2-(tetrazol-5-yl)ethoxy]-6,11-dihydrodibenz[b,e]oxepine: (Exemplary compound 72)
2-(7-Chloroquinolin-2-yl)methoxy-11-(2-cyanoethoxy)-6,11-dihydrodibenz[b,e]oxepine and trimethyltin azide were used and reacted in the same manner as in Example 30 to obtain the title compound.

reactant | 2-(7-Chloroquinolin-2-yl)methoxy-11-(2-cyanoethoxy)-6,11-dihydrodibenz[b,e]oxepine | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2OCCC#N)C=CC=C3)C=C1 | C27H21ClN2O3
reactant | trimethyltin azide | C[Sn](C)(C)N=[N+]=[N-]
product | 2-(7-Chloroquinolin-2-yl)methoxy-11-[2-(tetrazol-5-yl)ethoxy]-6,11-dihydrodibenz[b,e]oxepine | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2OCCC2=NN=NN2)C=CC=C3)C=C1 | C27H22ClN5O3
